US07547786B2
N1-(5-Chloropyridin-2-yl)-N2-((1S,2R,4S)-4-[(dimethylamino)carbonyl]-2-{[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]amino}cyclohexyl)ethanediamide
N1-{(1S,2R,4S)-2-Amino-4-[(dimethylamino)carbonyl]cyclohexyl}-N2-(5-chloropyridin-2-yl)ethanediamide (553.4 mg) was dissolved in dimethylacetamide (7 mL), and to the solution were added 1-hydroxybenzotriazole monohydrate (245.1 mg), 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride (386.0 mg), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (345.0 mg) at room temperature. The resultant mixture was stirred for 13 hours, and triethylamine and water were added thereto. The precipitated crystals were collected by filtration, and were dried, to thereby give 674.1 mg of the title compound.

reactant | N1-{(1S,2R,4S)-2-Amino-4-[(dimethylamino)carbonyl]cyclohexyl}-N2-(5-chloropyridin-2-yl)ethanediamide | 553.4 mg | N[C@H]1[C@H](CC[C@@H](C1)C(=O)N(C)C)NC(C(=O)NC1=NC=C(C=C1)Cl)=O | C16H22ClN5O3
reactant | 1-hydroxybenzotriazole monohydrate | 245.1 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride | 386.0 mg | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 345.0 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylacetamide | 7 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N1-(5-Chloropyridin-2-yl)-N2-((1S,2R,4S)-4-[(dimethylamino)carbonyl]-2-{[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]amino}cyclohexyl)ethanediamide | 674.1 mg | ClC=1C=CC(=NC1)NC(C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(=O)N(C)C)NC(=O)C=1SC=2CN(CCC2N1)C)=O | C24H30ClN7O4S
